US09084794B2
b) 9-(1-(4-bromophenyl)-2-oxopropyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 1-bromo-1-(4-bromophenyl)propan-2-one (0.225 mmol) in N,N-dimethylformamide (1 mL) was treated with potassium carbonate (0.676 mmol) and 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (0.237 mmol). The reaction mixture was stirred at room temperature overnight, at which point it was diluted with water (50 mL) and brine (20 mL). The aqueous mixture was extracted four times with dichloromethane. The organic layers were combined, dried over sodium sulfate, filtered and concentrated to dryness in vacuo to afford the crude title compound as a brown solid.

reactant | 1-bromo-1-(4-bromophenyl)propan-2-one | 0.225 mmol | BrC(C(C)=O)C1=CC=C(C=C1)Br | C9H8Br2O
reactant | potassium carbonate | 0.676 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 0.237 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | 9-(1-(4-bromophenyl)-2-oxopropyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | BrC1=CC=C(C=C1)C(C(C)=O)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C20H25BrN2O3
